US06048868
N,N-Diethylaminopyridine (530 mg) and pyridine (1.1 mL) are added to a solution of 1-(6-methoxy-1 -methyl-2,3,4,9-tetrahydro- 1H-β-carbolin-2-yl)-1-ethanone (933 mg) in toluene (100 mL) and acetic anhydride (6 mL). The mixture is refluxed for 48 h. After evaporation of the toluene, the crude product is taken up in water and then extracted with dichloromethane and, after separation on silica gel (chloroform/methanol eluent), the 1-(2-acetyl-6-methoxy-1-methyl-2,3,4,9-tetrahydro-1 H-β-carbolin-9-yl) 1 -ethanone is obtained (22% yield).

reactant | pyridine | 1.1 mL | N1=CC=CC=C1 | C5H5N
reactant | 1-(6-methoxy-1 -methyl-2,3,4,9-tetrahydro- 1H-β-carbolin-2-yl)-1-ethanone | 933 mg | COC=1C=C2C=3CCN(C(C3NC2=CC1)C)C(C)=O | C15H18N2O2
reactant | acetic anhydride | 6 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 1-(2-acetyl-6-methoxy-1-methyl-2,3,4,9-tetrahydro-1 H-β-carbolin-9-yl) 1 -ethanone | 22% yield | C(C)(=O)N1C(C=2N(C3=CC=C(C=C3C2CC1)OC)C(C)=O)C | C17H20N2O3
